US06770646B2
3-[(3-Hydroxypropyl)thio]-5-methyl-7-(2-methylpropyl)2-(1-naphthalenylmethyl)-thieno[2,3-d]pyridazin-4(5H)-one
Prepared from 5-methyl-7-(2-methylpropyl)-2-(1-naphthalenylmethyl)thieno[2,3-d]-pyridazin-4(5H)-one (385 mg) prepared as described in Example 7 above and S-{3-[(1,1-dimethylethyl)dimethylsilyl]oxypropyl} paratoluenethiosulfonate (600 mg) (J. Med. Chem., 1995, 38, 2557) following the method of Example 3. Yield 370 mg.

reactant | 5-methyl-7-(2-methylpropyl)-2-(1-naphthalenylmethyl)thieno[2,3-d]-pyridazin-4(5H)-one | 385 mg | CN1N=C(C2=C(C1=O)C=C(S2)CC2=CC=CC1=CC=CC=C21)CC(C)C | C22H22N2OS
reactant | S-{3-[(1,1-dimethylethyl)dimethylsilyl]oxypropyl} paratoluenethiosulfonate | 600 mg | C1(=CC=C(C=C1)S(=O)(SCCCO[Si](C)(C)C(C)(C)C)=O)C | C16H28O3S2Si
product | 3-[(3-Hydroxypropyl)thio]-5-methyl-7-(2-methylpropyl)2-(1-naphthalenylmethyl)-thieno[2,3-d]pyridazin-4(5H)-one | OCCCSC1=C(SC=2C(=NN(C(C21)=O)C)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C25H28N2O2S2
